US05925630
A solution of 1,2-dibromoethylene (1.6 mL, 3.7 g, 19.71 mmol) in dry THF (10 mL) was treated with n-BuLi (16.4 mL, 2.4M in THF, 39.4 mmol) at -75° C. After stirring the mixture at -78° C. for 0.25 hr, a solution of 17β-methoxy-5β-androstan-3-one (2 g, 6.57 mmol) in THF (20 mL) was added and the mixture was stirred at -78° C. for 15 min. The cooling bath was then removed and the mixture was quenched with NH4Cl solution (3 mL). The solvents were removed and the residue was extracted with EtOAc. The organic layer was washed with water, and brine. After drying over anhyd. MgSO4 the solution was filtered and evaporated to yield the crude product. This crude product was then dissolved in a small amount of CH2Cl2 and poured on a column of silica gel. Elution with toluene:acetone mixture (95:5) gave 3β-ethynyl-3α-hydroxy-17β-methoxy-5β-androstane (1.70 g) as a colorless solid; mp 62-65° C.; TLC Rf (toluene:acetone 95:5)=0.23.

reactant | 1,2-dibromoethylene | 19.71 mmol, 1.6 mL, 3.7 g | BrC=CBr | C2H2Br2
reactant | n-BuLi | 39.4 mmol, 2.4M, 16.4 mL | [Li]CCCC
reactant | 17β-methoxy-5β-androstan-3-one | 6.57 mmol, 2 g | CO[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@@H]3CC(CC[C@]3(C)[C@H]1CC2)=O | C20H32O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3β-ethynyl-3α-hydroxy-17β-methoxy-5β-androstane | 1.70 g | C(#C)[C@@]1(C[C@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OC)O | C22H34O2
